US08865713B2
Step E: 1-(4-Bromo-6-fluoro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
A mixture of 1-[N-(2,6-dibromo-4-fluoro-phenyl)-carbamimidoyl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.134 g, 0.290 mmol), CuI (6.00 mg, 0.0290 mmol), Cs2CO3 (0.464 g, 1.43 mmol), and DMF (2 mL) was heated to 80° C. for 1 h. The mixture was cooled to 23° C., diluted with EtOAc (3 mL), filtered through Celite®, and rinsed with EtOAc. The filtrate was washed with aqueous 1M HCl and water, dried (MgSO4), filtered, and concentrated under reduced pressure. Dichloromethane was added and the resulting precipitate was collected by filtration to yield the titled compound (17.0 mg, 17%). MS (ESI/CI): mass calcd. for C13H10BrFN4O2, 353.2; m/z found, 354.2 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.86 (s, 1H), 8.95 (s, 1H), 8.36 (s, 1H), 7.45 (dd, J=9.6, 2.3 Hz, 1H), 7.32 (s, 1H), 4.30 (q, J=7.1 Hz, 2H), 1.33 (t, J=7.1 Hz, 3H).

reactant | 1-[N-(2,6-dibromo-4-fluoro-phenyl)-carbamimidoyl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.290 mmol, 0.134 g | C(C)OC(=O)C=1C=NN(C1)C(NC1=C(C=C(C=C1Br)F)Br)=N | C13H11Br2FN4O2
reactant | Cs2CO3 | 1.43 mmol, 0.464 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.0290 mmol, 6.00 mg | [Cu]I
product | 1-(4-Bromo-6-fluoro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 17.0 mg, 17% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C=C2Br)F | C13H10BrFN4O2
